### PR TITLE
feat: optimized division without remainder for `Int` and `Nat`

### PR DESCRIPTION
**Pull request by Rob23oba**
This PR adds optimized division functions for `Int` and `Nat` when the arguments are known to be divisible (such as when normalizing rationals). These are backed by the gmp functions `mpz_divexact` and `mpz_divexact_ui`. See also leanprover-community/batteries#1202.

### CODE REVIEW

**Comment by Rob23oba** [comment]
changelog-library

File: src/runtime/object.cpp [hunk 1]
```diff
@@ -1593,6 +1609,20 @@ extern "C" LEAN_EXPORT object * lean_int_big_div(object * a1, object * a2) {
     }
 }
 
+extern "C" LEAN_EXPORT object * lean_int_big_div_exact(object * a1, object * a2) {
+    if (lean_is_scalar(a1)) {
+        return a1;
```
Comment (TwoFX) [inline src/runtime/object.cpp:1614]:
```lean
-- Prints '-2147483648'
#eval Int.divExact (-2^31) (2^31) (by decide)
```

File: src/runtime/object.cpp [hunk 2]
```diff
@@ -1345,6 +1345,22 @@ extern "C" LEAN_EXPORT object * lean_nat_big_div(object * a1, object * a2) {
...
+extern "C" LEAN_EXPORT object * lean_nat_big_div_exact(object * a1, object * a2) {
+    lean_assert(!lean_is_scalar(a1) || !lean_is_scalar(a2));
+    if (lean_is_scalar(a1)) {
+        lean_assert(mpz_value(a2) != 0);
+        lean_assert(mpz::of_size_t(lean_unbox(a1)) / mpz_value(a2) == 0);
+        return lean_box(0);
+    } else if (lean_is_scalar(a2)) {
+        usize n2 = lean_unbox(a2);
+        lean_assert(n2 != 0);
+        return n2 == 0 ? a2 : mpz_to_nat(mpz::divexact(mpz_value(a1), n2));
```
[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/runtime/object.cpp:1357]: Oh of course, the condition afterwards is unnecessary, I just forgot to remove it.

File: src/runtime/object.cpp (hunk 1 above)
Comment (Rob23oba) [reply src/runtime/object.cpp:1614]: Yeah, I honestly expected there to be some problems... (thanks for testing!) I'll see where that's coming from.

Comment (Rob23oba) [reply src/runtime/object.cpp]: Actually, you told me (thanks lol). I fixed it by returning -1 if the first value is non-zero (this should be the only special case..?). I'll maybe try proving that but until now I think this should work.

Comment (Rob23oba) [reply src/runtime/object.cpp]: Okay I've proven that I can use this rough structure [here](https://live.lean-lang.org/#codez=IYIxCcFMDcAIBlLAHYDoCWBnAygY2ADbDiwAUAHrAFywCSyALgJTWwAK4A9gA7UC8AKFh1GAZgBMqALbpkANUIBXSKgad6DWIBMiWJUDkRLu0iGE6cHIKCy1esYCBmSAwD6PBuk7JYBWQ0jhURWRFRwATBXB0UAJITFQAMyCAQXAAc0xYeMJHWFkBUMh42FD0aABRcmBcTQpYAE9WDRZSAAtWBsBiIl0WGg1+IVyixBQMHHwiEkoGFshkAeF0Iso+WAAGWGnZtdhIAhyAWgBGAd3HecMAenr7Tc4oKWNUZGAGJJBMZ1TIV3jnUOhQmRKA1eoxmm0aJ1umQWgByViUQAGRGsevUni83hkdOR0a93vxYCA6gMWsBoJBYIAL8mAABpYKTAJfkBJaAyJznwjgyLRB9VgK1WAwA7bBMOgpNxnIQCAMoNwiLgKaSCbhPKlwClUo9nniucABqLxbBPAQGgBtDS4zHOKSKAgAXVgL3peuEsvlip5dUt+OR6yoKyJIrFvFN3LtMsgcqqHtYhyMzgJADkXqgAF7+TjOAguTi/ZDfdNcenE4Sk8n0yg0HHazGwX0EwMGkNw8PCL758CEdDp3TejIrcjwp0AKgG7f8XZ7Xpr+JWdSHmlHbdmE58PeAfb5joXsCXsFwMWI9Pp8OBjoGHNizv1waNyBNsFN+eckAAjnTkwxpLaX6/nIXODpZBOBzcAHSdFpyBJMkKRoOMdGAeF/VgT80wzLMczzAsMwrVBxAjKMFQ2FosCTFMbQILNvgoqj4k0ediKwG9xWAWAQlkTVpiYgRbnuLUMXeDDnEWIpalBZgyB5T9UWrASMgAHl5QAUwlgfYGkU/RDEUkEAxLWBwAAd0fQAEwkeXNPww1tCTqdlgE5Y8aHWbEhSDQ1jTNC0Zw+XNnGA5B801Fo6REyVkFCZxHAIeIrIWRgizhc4oHiWQKQtbMfiEnyYlgAB+BMWWEYQmzvB9zUYJ5IFSISAOE+JovOSBKmqR50qy74ss0NoEuEYU3WjByVjS9q8xAqj6USozTVMzy5N8yq6RmnUMr8gKyE8yrfM8ALls8bhOC5JgYv0ybpvK7b0u2kSjuK9zH3WqqAuCuqIt2X4UFCI7fHi2FEsKFKWswqiMuzY88omkytQ2i6NpEhazo2gLwM6n7Cv0v78wB4Hhow3L8pRwrGqqTR7s2/yNp8vy9q5G4ZjuSAHkWq0Ylq0TK2MZopJeGTNx0BoVLUoxNMoXmGz0m77zNVDmZC9LgFCcLPEgIDZvS2H+IYABhOyXDl0I6Q5TCLI0OGv223WaXOC0oFCRQFUTebYFOr9MEUEBf0leW5tSE3UBdt3Vbqn3pee2XPcV8MeNpviht82aRKBVhpMkxowQRIxpzk2AVOF1SGkACiJDBF5CiWY3hbqmrVRuzOlTNQ4CXGr9WmZcNWABFIFwdBQmiFR69C8KQr7u5NoYKzDIhknoaqtWnYqqqp5ZsgQAJOpDtLmnIDph4SnKJqXBVcAoGa2oeSaGF2lgLpyHBJDYAAGtIYY0CwPBCCPTSn9GV+JnqJhUR3ioRNDANDaAOWAVwdLWVLo+ABe8TamCkOYSwygrJfU4PSQELRFD6jlOgBgLkmySgINKHqaNnhSG+OgCs5xxalT7u9eBkg1AaC9ow1A1tbaQAACq2AYD7baj0UIpg4QqNgnADIW1RsIK2kAbYKgAEJSE4HrR4IjID229sYBBSClBK0rg3PR71hLijpC0FRWDJFSPiHcKU7JPCYFHo6ZGNDbzlxkXI9RDt26d27iAGIGBxQsxHq4cA/Cq6QCRiec4ZZFSwlvuIWAAA9WAoh4Joi8qLc4RVXES0fKhNRYiJEtW+F5FmR1hCcAoakF0hUYkYMUAiHmsAEnJNSZkqRrky65NNPk2RnDCn8JVpQwOjwDY/CNowUxKiGDgGUP3cpRoqk1NLDBAkjNBJfAyv8QEZ4upQVRnUyCjSMkrBaSkuMxcGiVMqss505ZuTtE3KcpJ5zRaLJueDMqptZpvjKU4isxYXFuW6b0jxAzRna3GS8ZwGhIlHO5IlS8XJKAGTwW0Ug4B4gEFgAAH30lilg8kADcAA+fSSLiywFRdMMgmLsV4rpUwc4wpioQWwajXqWLmX4pIYVFlt4II/SAA)

Comment (Rob23oba) [reply src/runtime/object.cpp]: Nat variant should also work: [here](https://live.lean-lang.org/#codez=IYIxCcFMDcAIBlLAHYDoCWBnAygY2ADbDiwAUAHrAFywBywALgJTWwAK4A9gA7UC8AKFixKAHlgBVbOgBekVJlmRYAelgAmAQMyQGAfR4N0nZLALpkDSOFQBXZLZ0ATAGrF0oApEyoAZvYBBcABzTFhfQh1YCwEnSF9YJ3RoAFFyYFwGMkoAT1Z6ZjIAC1Y8wGIiERYaAv4haITEFAwcfCISSgYiyGQ64QAGOsgCHV6RVVgcrU7ITigAW0TktIz9XFmoTOyJ/MYWUhKacsrigHJWABrSRrQsPEJiMcByIgQkG5b7khymKsXU9M3crASnwxmo8lQQSBJsJFHNeCYCHkANpJP4rAA0sGC+nQvl8egIDEx6CsekgAEc9OB0MEiji8QBdOoWBhcIHkOqw+HIRGwJHXZp3NqYorkTGs2yQPQoJyYgqoZCcfSEhmwRhAk51KF6fA6MJFcHbEEDYQAdtgXL5BqZwnAAHc+RSdZw5nM5YxUKiyZS5Fw9Lj8Sq6ubIP8svLCQZA/pOIHlKKNcHYKGVnQPb7OASY/jkFKM0DJkA)

Comment (Rob23oba) [reply src/runtime/object.cpp]: The remainder of the code is either a call to gmp functions (which I'll hope are correct) or code that already existed for division. So I'm pretty confident that it should work now. I encourage you to look over the code again though for anything I might have missed (something less relevant but also relevant would be memory leaks perhaps).

File: src/Init/Data/Nat/Div/Basic.lean [hunk 3]
```diff
@@ -129,6 +129,27 @@ theorem div_lt_self {n k : Nat} (hLtN : 0 < n) (hLtK : 1 < k) : n / k < n := by
...
+ * `Nat.divExact 21 3 (by decide) = 7`
+ * `Nat.divExact 0 22 (by decide) = 0`
+ * `Nat.divExact 0 0 (by decide) = 0`
+-/
+@[extern "lean_nat_div_exact"]
+protected def divExact (x y : @& Nat) (h : y ∣ x) : Nat :=
+  x / y
+
+@[simp]
+theorem divExact_eq (x y : Nat) (h : y ∣ x) : x.divExact y h = x / y := rfl
```
Comment (TwoFX) [inline src/Init/Data/Nat/Div/Basic.lean:151]: How about calling this `divExact_eq_div` to be consistent with the `Int` case?

File: src/runtime/object.cpp [hunk 4]
```diff
@@ -1593,6 +1609,19 @@ extern "C" LEAN_EXPORT object * lean_int_big_div(object * a1, object * a2) {
     }
 }
 
+extern "C" LEAN_EXPORT object * lean_int_big_div_exact(object * a1, object * a2) {
+    if (lean_is_scalar(a1)) {
+        int n = lean_scalar_to_int(a1);
+        return n == 0 ? a1 : lean_box(static_cast<unsigned>(-1));
```
Comment (TwoFX) [inline src/runtime/object.cpp:1615]: Future readers of this code might be happy about a comment here that explains why this works (this code path is only taken if `a1` is scalar but `a2` isn't, we globally guarantee that non-scalar values never contain anything that could fit in a scalar, and `a2` divides `a1`, which can only happen if either `a1` is zero or `a1` is `MIN_INT` and `a2` is `MAX_INT + 1 = -MIN_INT`).

File: src/runtime/object.cpp (hunk 1 above)
Comment (TwoFX) [reply src/runtime/object.cpp]: Looks good now I think.

File: src/Init/Data/Nat/Div/Basic.lean [hunk 5]
```diff
@@ -129,6 +129,27 @@ theorem div_lt_self {n k : Nat} (hLtN : 0 < n) (hLtK : 1 < k) : n / k < n := by
     have := Nat.add_le_of_le_sub hKN this
     exact Nat.lt_of_lt_of_le (Nat.add_lt_add_left hLtK _) this
 
+set_option linter.unusedVariables.funArgs false in
```
[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/Init/Data/Nat/Div/Basic.lean:132]: It gives the warning "h is unused" otherwise

**Comment by Rob23oba** [comment]
In the definition of `mpz::divexact(mpz, size_t)` I coerced from `size_t` to `unsigned long` (for `mpz_divexact_ui`). I thought this was safe but some other comments seem to suggest that `unsigned long` might be smaller than `size_t`. Perhaps we should consider that case then.

File: src/Init/Data/Nat/Div/Basic.lean (hunk 5 above)
[the remark this answers is not in the document]
Comment (TwoFX) [reply src/Init/Data/Nat/Div/Basic.lean:132]: And it does so for the `Nat` definition but not for the `Int` one?

[the remark this answers is not in the document]
Comment (Rob23oba) [reply src/Init/Data/Nat/Div/Basic.lean:132]: Actually no, you're right, the `@[extern]` annotation overrides that. (I probably added that before adding extern...)

**Comment by TwoFX** [comment]
> I coerced from `size_t` to `unsigned long`

Yes, on some platform/compiler combinations (like 64 bit Windows and MSVC?) it is possible for `size_t` to be 64 bits and `unsigned long` to be 32 bits (compared to `unsigned long long`, which can generally assumed to be 64 bits). I'm not sure whether any of the platforms we support exhibit this, but I don't think it's a good idea to provide a `mpz::divexact(mpz, size_t)`. Instead, just go through `mpz::of_size_t` where necessary. In the future, we might add `mpz::divexact(mpz, unsigned long)` if a need for it arises.

**Comment by Rob23oba** [comment]
Yeah, I'm on windows and this crashes: `#guard Nat.divExact (2 ^ 100) (2 ^ 60) (by decide) == 2 ^ 40`
I just wonder whether `mpz_divexact_ui` is notably faster than `mpz_divexact`, in which case it would make sense to use it perhaps.
The question is maybe also though whether `mpz::of_size_t` is an allocation, if not then I guess it isn't that relevant.

File: src/runtime/mpz.cpp [hunk 6]
```diff
@@ -757,6 +763,14 @@ mpz & mpz::operator%=(mpz const & o) {
     return rem(o.m_size, o.m_digits);
 }
 
+mpz divexact(mpz const & n, mpz const & d) {
+    return n / d;
+}
+
+mpz divexact(mpz const & n, size_t d) {
```
Comment (TwoFX) [inline src/runtime/mpz.cpp:770]: Is this duplicated with the definition in `mpz.h` now?

Comment (Rob23oba) [reply src/runtime/mpz.cpp]: Oh, I forgot about that one. It's not being used probably (because of gmp) but I'll still remove it.

**Review by TwoFX — APPROVED** [review]
Thanks!

File: src/runtime/mpz.cpp [hunk 7]
```diff
@@ -757,6 +763,10 @@ mpz & mpz::operator%=(mpz const & o) {
     return rem(o.m_size, o.m_digits);
 }
 
+mpz divexact(mpz const & n, mpz const & d) {
```
Comment (eric-wieser) [inline src/runtime/mpz.cpp:766]: This doesn't link without
```suggestion
mpz mpz::divexact(mpz const & n, mpz const & d) {
```
#9106

Comment (Rob23oba) [reply src/runtime/mpz.cpp:766]: Yeah, my bad, thanks for fixing
